US04188341
8.4 g (0.15 mol) of acrolein is added dropwise to a solution of 23.3 g (0.15 mol) of N-(3-penten-2-yl)-morpholine in 100 ml of methylene chloride. After addition of the acrolein the mixture is stirred for 15 hours at 25° C. and subsequently for further 15 hours at 50° C. Then 12.0 g (0.225 Mol) of ammonium chloride are added and the solvent is distilled off. The residue is transferred into an autoclave and after addition of 400 ml of concentrate aqueous ammonia and 10.0 g of palladium coal (5%) the whole is heated under a nitrogen pressure of 50 bar for 15 hours at 280°-290° C. Then the catalyst is filtered off and washed with ether. The filtrate is extracted several times with ether. The extracts are combined and dried over magnesium sulphate and the ether is distilled off. The residue (14.2 g; 79% of theory) is distilled at a pressure of 15 torr. There is obtained 6.7 g (37% of theory) of 2,6-dimethylaniline, b.p. 15 : 94°-98° C.

reactant | acrolein | 0.15 mol, 8.4 g | C(=O)C=C | C3H4O
reactant | N-(3-penten-2-yl)-morpholine | 0.15 mol, 23.3 g | CC(C=CC)N1CCOCC1 | C9H17NO
reactant | ammonium chloride | 0.225 Mol, 12.0 g | [Cl-].[NH4+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dimethylaniline | 6.7 g, 37% | CC1=C(N)C(=CC=C1)C | C8H11N
